US09056859B2
A solution of 4-methyl-5-prop-2-en-1-yl-2-benzofuran-1(3H)-one (220 mg, 1.2 mmol) in MeOH (20 mL) was cooled to −78° C. To this solution was bubbled ozone until the reaction turned blue. Nitrogen was bubbled through the reaction to drive off excess ozone, followed by addition of DMS (0.870 mL, 11.7 mmol). The reaction was allowed to warm up to RT. The solvents were removed under reduced pressure. The crude product was purified by flash chromatography to afford (4-methyl-1-oxo-1,3-dihydro-2-benzofuran-5-yl)acetaldehyde. 1H-NMR (500 MHz, CDCl3) δ ppm 9.78 (s, 1H), 7.75 (d, J=7.5 Hz, 1H), 7.34 (d, J=7.5 Hz, 1H), 5.27 (s, 2H), 3.90 (s, 2H), 2.23 (s, 3H).

reactant | 4-methyl-5-prop-2-en-1-yl-2-benzofuran-1(3H)-one | 1.2 mmol, 220 mg | CC1=C(C=CC=2C(OCC21)=O)CC=C | C12H12O2
reactant | DMS | 11.7 mmol, 0.870 mL | CSC | C2H6S
reactant | MeOH | 20 mL | CO | CH4O
product | (4-methyl-1-oxo-1,3-dihydro-2-benzofuran-5-yl)acetaldehyde | CC1=C(C=CC=2C(OCC21)=O)CC=O | C11H10O3
